US08048897B2
(2) Synthesis of 2-(3-Fluorobenzyl)phenol
To a solution of (2-benzyloxyphenyl)-(3-fluorophenyl)methanol (2.54 g, 7.51 mmol) in methanol (30 ml), a 20% palladium hydroxide catalyst (300 mg) was added and furthermore 2N—HCl (0.3 mL) was added thereto. The mixture solution was stirred under a hydrogen atmosphere for five days, and then the catalyst was filtered off. The solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:10)] to obtain the title compound (620 mg, 42%).

reactant | (2-benzyloxyphenyl)-(3-fluorophenyl)methanol | 7.51 mmol, 2.54 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC(=CC=C1)F | C20H17FO2
reactant | HCl | 0.3 mL | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium hydroxide | 300 mg | [OH-].[Pd+2].[OH-]
product | 2-(3-Fluorobenzyl)phenol | 620 mg, 42% | FC=1C=C(CC2=C(C=CC=C2)O)C=CC1 | C13H11FO
